US04352805
A mixture of 1-bromomethyl-7,8-dimethoxy-2-benzothiepin, dilsopropylethylamine, and ethylene glycol is heated at 30° to 100° C. for 5-50 hours. The reaction mixture is then cooled, diluted with methylene chloride and extracted with water followed by brine. The organic layer is filtered through Na2SO4, taken to dryness, and chromatographed on silica gel to give 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethanol.

reactant | 1-bromomethyl-7,8-dimethoxy-2-benzothiepin | BrCC=1SC=CC=C2C1C=C(C(=C2)OC)OC | C13H13BrO2S
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzothiepin-1-yl)methoxy]ethanol | COC=1C(=CC2=C(CCCSC2COCCO)C1)OC | C15H22O4S
